US07399759B2
2-[4-(4-Fluorophenyl)-1-piperazinyl]isonicotinonitrile
2-Chloro-4-cyanopyridine (0.40 g, 2.9 mmol) was dissolved in N-methylpyrrolidone (2.0 ml), and 1-(4-fluorophenyl)piperazine (1.0 g, 5.6 mmol) was added thereto. The reaction mixture was stirred at 100° C. for 10 hrs, combined with water to give precipitates, which were collected by filtration to give the titled compound (0.70 g, 86%).

reactant | 2-Chloro-4-cyanopyridine | 2.9 mmol, 0.40 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | 1-(4-fluorophenyl)piperazine | 5.6 mmol, 1.0 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 2.0 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[4-(4-Fluorophenyl)-1-piperazinyl]isonicotinonitrile | 0.70 g, 86% | FC1=CC=C(C=C1)N1CCN(CC1)C=1C=C(C#N)C=CN1 | C16H15FN4
